US07943622B2
Step 2. Synthesis of (2-(phenylamino)oxazol-4-yl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 4-(2-(phenylamino)oxazole-4-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt (64.8 mg, 0.109 mmol) in MeOH (1 mL). After stirring overnight, the reaction mixture was concentrated under reduced pressure and purified by HPLC (5 to 50% MeCN/0.1% TFA in H2O/0.1% TFA gradient). The fractions containing the desired product were concentrated under reduced pressure, dissolved in MeOH (1 mL), and treated with 4 M HCl in 1,4-dioxane (6 mL). The mixture was concentrated under reduced pressure to give 41 mg (83%) of the title compound as a white solid. LC-MS: RT=3.29 min, [M+H]+=380.0.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(2-(phenylamino)oxazole-4-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt | 0.109 mmol, 64.8 mg | OC(=O)C(F)(F)F.C1(=CC=CC=C1)NC=1OC=C(N1)C(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1
solvent | MeOH | 1 mL | CO | CH4O
product | (2-(phenylamino)oxazol-4-yl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride | 41 mg, 83% | Cl.Cl.C1(=CC=CC=C1)NC=1OC=C(N1)C(=O)N1C(CNCC1)COC=1C=NC=CC1 | InChI=1S/C20H21N5O3.2ClH/c26-19(18-14-28-20(24-18)23-15-5-2-1-3-6-15)25-10-9-22-11-16(25)13-27-17-7-4-8-21-12-17;;/h1-8,12,14,16,22H,9-11,13H2,(H,23,24);2*1H
